* C:\Users\Francerso\Documents\Francesco\UNIVERSITA'\UNIMI\Anno II\Labortatorio\Circuits\14_5\NOR.asc
* Generated by LTspice 24.1.5 for Windows.
V1 V1 NC_01 PULSE(0 5 0 1n 1n 1 2)
V2 P001 0 5
R1 P002 V1 9.9k
R2 P001 N001 998.7
Q1 N001 P002 0 0 BC547C
Q2 N001 P003 0 0 BC547C
Q3 N001 P004 0 0 BC547C
R3 P004 V2 9.9k
R4 P003 V2 9.9k
V3 V2 NC_02 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\Francerso\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5
.backanno
.end
